US05410057
A solution of 2.16 g (0.0096 mol) of di-tert-butyl dicarbonate in 15 ml of chloroform is added dropwise to a solution of 2.57 g (0.0096 mol) of 3-aminomethyl-1-benzhydryl-3-methylazetidine in 30 ml of anhydrous chloroform under a nitrogen atmosphere. The mixture is stirred at ambient temperature under nitrogen overnight and is evaporated to dryness to obtain 2.7 g of 1-benzhydryl-3-tert-butoxycarbonylaminomethyl-3-methylazetidine. M.p. 106°-107° C.

reactant | di-tert-butyl dicarbonate | 0.0096 mol, 2.16 g | C(=O)(OC(C)(C)C)OC(=O)OC(C)(C)C | C10H18O5
reactant | 3-aminomethyl-1-benzhydryl-3-methylazetidine | 0.0096 mol, 2.57 g | NCC1(CN(C1)C(C1=CC=CC=C1)C1=CC=CC=C1)C | C18H22N2
solvent | chloroform | 15 ml | C(Cl)(Cl)Cl | CHCl3
solvent | chloroform | 30 ml | C(Cl)(Cl)Cl | CHCl3
product | 1-benzhydryl-3-tert-butoxycarbonylaminomethyl-3-methylazetidine | 2.7 g | C(C1=CC=CC=C1)(C1=CC=CC=C1)N1CC(C1)(C)CNC(=O)OC(C)(C)C | C23H30N2O2
